US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-dimethylamino-5-hydroxy-2-methyl-3(2H)-pyridazinone (Compound (I-1-2))
To a solution of potassium t-butoxide (380 mg, 3.38 mmol) in dry THF (10 ml) was slowly added a solution of ethyl 2-[2-(2,6-diethyl-4-methylphenyl)acetyl-2-methylhydrazono]-2-dimethylaminoacetate (Compound (II-2)) (280 mg, 0.840 mmol) in dry THF (3 ml) dropwise. The mixture was stirred at room temperature for 15 minutes. The reaction solution was diluted with water, and extracted with ethyl acetate 2 times. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting solid was washed with hexane, filtered, and dried to give 230 mg of Compound (I-1-2).

reactant | potassium t-butoxide | 3.38 mmol, 380 mg | CC(C)([O-])C.[K+]
reactant | ethyl 2-[2-(2,6-diethyl-4-methylphenyl)acetyl-2-methylhydrazono]-2-dimethylaminoacetate | 0.840 mmol, 280 mg | C(C)C1=C(C(=CC(=C1)C)CC)CC(=O)N(N=C(C(=O)OCC)N(C)C)C | C20H31N3O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(2,6-diethyl-4-methylphenyl)-6-dimethylamino-5-hydroxy-2-methyl-3(2H)-pyridazinone | 230 mg | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1O)N(C)C)C)=O | C18H25N3O2
